US05272147
5-(5-Bromo-2-ethoxyphenyl)-1-methyl-3-n-propyl-1,6-dihydro-7H-pyrazolo[4,3-d]-pyrimidin-7-one
Bromine (0.93 g, 0.0058 mol) was added dropwise to a stirred solution of 5-(2-ethoxyphenyl)-1-methyl-3-n-propyl-1,6-dihydro-7H-pyrazolo[4,3-d]-pyrimidin-7-one (Preparation 7, 1.1 g, 0.00352 mol) in glacial acetic acid (20 ml). The mixture was stirred at 100° C. for 6.5 hours and the solvent was then removed by evaporation under vacuum. The residue was dissolved in a 9:1 mixture of methanol in dichloromethane (50 ml), and the solution washed with saturated aqueous sodium bicarbonate solution (50 ml), water (50 ml) and saturated brine (50 ml), then dried (MgSO4) and evaported under vacuum. The residue was chromatographed in silica gel (15 g) eluting with a mixture of methanol and dichloromethane (1:99) to give, after crystallisation from acetonitrile, the title compound (0.62 g, 45%), m.p. 157°-159° C. Found C,52,41; H,5.25; N,14.01. C17H19BrN4O2 requires C,52.18; H,4.89; N,14.32%.

reactant | Bromine | 0.0058 mol, 0.93 g | BrBr | Br2
reactant | 5-(2-ethoxyphenyl)-1-methyl-3-n-propyl-1,6-dihydro-7H-pyrazolo[4,3-d]-pyrimidin-7-one | 0.00352 mol, 1.1 g | C(C)OC1=C(C=CC=C1)C=1NC(C2=C(N1)C(=NN2C)CCC)=O | C17H20N4O2
solvent | acetic acid | 20 ml | C(C)(=O)O | C2H4O2
product | 5-(5-Bromo-2-ethoxyphenyl)-1-methyl-3-n-propyl-1,6-dihydro-7H-pyrazolo[4,3-d]-pyrimidin-7-one | BrC=1C=CC(=C(C1)C=1NC(C2=C(N1)C(=NN2C)CCC)=O)OCC | C17H19BrN4O2
